US05530119
To a solution of homopiperazine (5 g, 50 mmol) in 10 mL of ethanol added a solution of methyl iodide (0.62 mL, 10 mmol) in 5 mL of ethanol in a sealed tube. It was gently stirred at 95° C. for 5 hours. The resulting white precipitate was filtered, washed with a small amount of cold ethanol, and the filtrate was concentrated in vacuo to yield 1-methyl homopiperazine hydroiodide. MS m/z M+H=115. The obtained 1-methylhomopiperazine hydroiodide is converted into free base according to the procedure describing in Example 25. Following the procedure of Example 6, but replacing 1-benzylpiperazine with 1-methyl homopiperazine, provides the desired compound. The product of Example 3 (2.1 g, 2.03 mmol), 1-methylhomopiperazine (700 mg, 6.09 mmol), and triethylamine (0.85 mL, 6.09 mmol) in 10 mL of methylene chloride are used. The reaction is carried out at 45° C. for 15 hours. Semi-pure compound is isolated from silica gel column chromatography. The obtained product (1.0 g, 0.9 mmol) is treated with 48%-HF (4 mL) in 30 mL of acetonitrile in the procedure described in Example 5. The pure title compound is isolated from silica gel column chromatography, followed by reverse phase HPLC.

reactant | homopiperazine | 50 mmol, 5 g | N1CCNCCC1 | C5H12N2
reactant | methyl iodide | 10 mmol, 0.62 mL | CI | CH3I
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-methyl homopiperazine hydroiodide | I.CN1CCNCCC1 | InChI=1S/C6H14N2.HI/c1-8-5-2-3-7-4-6-8;/h7H,2-6H2,1H3;1H
